US06787540B2
2-[(Acetylimino-phenyl-methyl)-amino]-N-[3-cyano-1-(1-ethyl-propyl)-pyrrolidin-3-yl]-3-cyclohexyl-propionamide.
The title compound was prepared starting from thiobenzoyl acetamide and 2-amino-N-[3-cyano-1-(1-ethyl-propyl)-pyrrolidin-3-yl]-3-cyclohexyl-propionamide bis hydrochloride salt according to the procedure from Example 1, step b, except that the compound was purified by HPLC using a 20×250 mm C18 reverse phase column with the method being 20% acetonitrile in water to 90% acetonitrile in water. MS, m/z 480=M+1.

reactant | thiobenzoyl acetamide | C(C1=CC=CC=C1)(=S)CC(=O)N | C9H9NOS
reactant | 2-amino-N-[3-cyano-1-(1-ethyl-propyl)-pyrrolidin-3-yl]-3-cyclohexyl-propionamide bis hydrochloride salt | Cl.Cl.NC(C(=O)NC1(CN(CC1)C(CC)CC)C#N)CC1CCCCC1
product | 2-[(Acetylimino-phenyl-methyl)-amino]-N-[3-cyano-1-(1-ethyl-propyl)-pyrrolidin-3-yl]-3-cyclohexyl-propionamide | C(C)(=O)N=C(C1=CC=CC=C1)NC(C(=O)NC1(CN(CC1)C(CC)CC)C#N)CC1CCCCC1 | C28H41N5O2
